US06008224
To liquid ammonia (35 ml) was added, under an argon atmosphere, a solution of 1-(2-Benzyloxyethyl)-4-methyl-2,6,7-trioxabicyclo-[2.2.2]octane (3.54 g) in anhydrous tetrahydrofuran (8 ml). Metallic sodium (500 mg) was then added thereto, and the resultant mixture was stirred for 3 hours at -78° C. After ammonium chloride was added to the reaction mixture, ammonia was evaporated, and tetrahydrofuran was evaporated under reduced pressure. The residue was washed with ether, and the resultant solid was added to saturated brine and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, to give 1-(2-hydroxyethyl)-4-methyl-2,6,7-trioxabicyclo[2.2.2]octane (1.4 g) as a pale yellow oil.

reactant | ammonia | 35 ml | N | H3N
reactant | 1-(2-Benzyloxyethyl)-4-methyl-2,6,7-trioxabicyclo-[2.2.2]octane | 3.54 g | C(C1=CC=CC=C1)OCCC12OCC(CO1)(CO2)C | C15H20O4
reactant | sodium | 500 mg | [Na] | Na
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1-(2-hydroxyethyl)-4-methyl-2,6,7-trioxabicyclo[2.2.2]octane | 1.4 g | OCCC12OCC(CO1)(CO2)C | C8H14O4
